US07981903B2
A suspension of {2-[3,3-dimethyl-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]-2-oxoethyl}dimethylamine (2.20 g, 7.16 mmol), hydrazine hydrate (2.81 mL, 57.3 mmol), iron(III)chloride (0.232 g, 1.432 mmol), and activated carbon (2 g, 7.16 mmol) was warmed at 65° C. for 16 hours. The solution was filtered while still warm through celite, taken to a residue under reduced pressure, and partitioned between chloroform and saturated sodium bicarbonate. The organic layer was washed with saturated sodium chloride (aq), dried over sodium sulfate, filtered, taken to a residue under reduced pressure, and purified by column chromatography to afford 1-[(dimethylamino)acetyl]-3,3-dimethyl-5-(methyloxy)-2,3-dihydro-1 H-indol-6-amine (1.41 g, 71% yield) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.49 (s, 1 H), 6.69 (s, 1 H), 4.62 (s, 2 H), 3.82 (s, 2 H), 3.73 (s, 3 H), 3.12 (s, 2 H), 2.23 (s, 6 H), 1.22 (s, 6 H).

reactant | {2-[3,3-dimethyl-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]-2-oxoethyl}dimethylamine | 7.16 mmol, 2.20 g | CC1(CN(C2=CC(=C(C=C12)OC)[N+](=O)[O-])C(CN(C)C)=O)C | C15H21N3O4
reactant | hydrazine hydrate | 57.3 mmol, 2.81 mL | O.NN
catalyst | iron(III)chloride | 1.432 mmol, 0.232 g | [Fe](Cl)(Cl)Cl
product | 1-[(dimethylamino)acetyl]-3,3-dimethyl-5-(methyloxy)-2,3-dihydro-1 H-indol-6-amine | 1.41 g, 71% yield | CN(C)CC(=O)N1CC(C2=CC(=C(C=C12)N)OC)(C)C | C15H23N3O2
